US06291722B1
In a drybox, 50 mg (0.303 mmol) of (Me3C)2PH(O) from Experiment 2, 83.4 mg (0.303 mmol) of Ni(COD)2 (COD=1,5-cyclooctadiene) and 5.0 mL of THF were loaded into a reactor (100 mL) equipped with a magnetic stir bar. The resulting mixture was stirred at room temperature over 10 min. Next, 1.43 g (10.0 mmol) of 4-chloroanisole was added into the mixture above, followed by adding 15 ml (15.0 mmol, 1.0 M solution in THF) of o-tolylmagnesium chloride, and 15 mL of THF into the reactor. The resulting mixture was stirred at room temperature for 15 h. before the reaction mixture was quenched with 10 mL of H2O. The mixture above was extracted with 3×50 mL of diethyl ether. The combined ether extracts were dried over MgSO4, filtered, and the ether and THF removed from the filtrate by rotary evaporation. The resulting residues were chromatographed on silicon gel using ethyl acetate/hexane (5% volume ratio) as eluant. The eluate was concentrated by rotary evaporation followed by high vacuum to yield 1.85 g (93% yield) of 4-o-tolylanisole. It was >95% pure by 1H NMR. 1H NMR (500 MHz, CDCl3): δ 7.47-7.19 (m, 8H), 4.03 (s, 3H), 2.53 (s, 3H) ppm. 13C NMR (125 MHz, CDCl3): δ 158.5, 141.5, 135.3, 134.3, 130.2, 130.1, 129.8, 126.8, 125.7, 113.4, 55.0, 20.4. ppm.

reactant | 4-chloroanisole | 10.0 mmol, 1.43 g | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | o-tolylmagnesium chloride | 15.0 mmol, 1.0 M, 15 ml | C1(=C(C=CC=C1)[Mg]Cl)C
catalyst | Ni(COD)2 | 0.303 mmol, 83.4 mg | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ni]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 4-o-tolylanisole | 1.85 g, 93% yield | C1(=C(C=CC=C1)C1=CC=C(C=C1)OC)C | C14H14O
